US07465745B2
A suspension of 10% Pd/C catalyst (1.25 g), (Z)-2-benzyloxycarbonylamino-5,5-dimethyl-hepta-2,6-dienoic acid methyl ester (8.60 g, 27 mmol, 1.0 eq), and Boc anhydride (6.48 g, 29.7 mmol, 1.1 eq) in methanol (100 mL) was shaken on a Parr hydrogenation apparatus under 40 psi of hydrogen for 3 days. The reaction mixture was filtered through a pad of diatomaceous earth and concentrated to provide tert-butoxycarbonylamino-5,5-dimethyl-heptanoic acid methyl ester as a white solid (6.10 g, 79% yield); 1H NMR (CDCl3, 400 MHz) δ 0.77 (t, J=15.1 Hz, 3H), 0.80 (s, 6H), 1.1-1.3 (m, 4H), 1.42 (s, 9H), 1.55-1.65 (m, 1H), 1.7-1.8 (m, 1H), 3.74 (s, 3H), 4.20-4.35 (m, 1H), 4.95-5.05 m, 1H).

reactant | (Z)-2-benzyloxycarbonylamino-5,5-dimethyl-hepta-2,6-dienoic acid methyl ester | 27 mmol, 8.60 g, 1.0 eq | COC(/C(=C/CC(C=C)(C)C)/NC(=O)OCC1=CC=CC=C1)=O | C18H23NO4
reactant | Boc anhydride | 29.7 mmol, 6.48 g, 1.1 eq | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | hydrogen | [H][H] | H2
catalyst | Pd/C | 1.25 g | [Pd] | Pd
solvent | methanol | 100 mL | CO | CH4O
product | tert-butoxycarbonylamino-5,5-dimethyl-heptanoic acid methyl ester | 6.10 g, 79% yield | COC(C(CCC(CC)(C)C)NC(=O)OC(C)(C)C)=O | C15H29NO4
